US07138410B2
(3R)-N-[2′-(Hydroxymethyl)-1,1′-biphenyl-4-yl]-1-azabicyclo[2.2.2]octane-3-carboxamide
A mixture of 90 mg (0.58 mmol) of 2-(hydroxymethyl)phenylboronic acid, 120 mg (0.39 mmol) of (3R)-N-(4-bromophenyl)-1-azabicyclo[2.2.2]octane-3-carboxamide, 1.16 ml (1.16 mmol) of 1N sodium hydroxide solution, 30 mg (0.04 mmol) of 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) chloride and 1 ml of DMF is heated at 80–85° C. for 42 h. The solvent is removed under reduced pressure. The crude product is purified by chromatography on silica gel 60 (mobile phase: dichloromethane→dichloromethane/methanol/ammonia 80:20:2). 56 mg (39% of theory) of the title compound are obtained.

reactant | 2-(hydroxymethyl)phenylboronic acid | 0.58 mmol, 90 mg | OCC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | (3R)-N-(4-bromophenyl)-1-azabicyclo[2.2.2]octane-3-carboxamide | 0.39 mmol, 120 mg | BrC1=CC=C(C=C1)NC(=O)[C@H]1CN2CCC1CC2 | C14H17BrN2O
reactant | sodium hydroxide | 1.16 mmol, 1N, 1.16 ml | [OH-].[Na+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) chloride | 0.04 mmol, 30 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (3R)-N-[2′-(Hydroxymethyl)-1,1′-biphenyl-4-yl]-1-azabicyclo[2.2.2]octane-3-carboxamide | OCC1=C(C=CC=C1)C1=CC=C(C=C1)NC(=O)[C@H]1CN2CCC1CC2 | C21H24N2O2
